4
R0100 1 0 10
L0203 2 3 1E-3
N0301 3 1 -1000 0 0 0 0.1 1000 1 10000
E0400 4 0 2 3 1
V0200 2 0 SIN 0 10 1000 0 0 0 10
.TRAN 2E-3 10E-6 TETA 0.55 1
